US04560638
Preparation of 2-(4-ethylcarbamoyloxyphenyl)-1-formylhyrazine (AH-2)
Ethylchloroformate (9.01 g., 0.066 mol) was added dropwise to a suspension of 4-amino-1-(2'-formylhydrazino)benzene (10.0 g., 0.066 mol) and 2,6-lutidine (7.1 g, 0.066 mol) in acetonitrile (250 ml). Upon heating to reflux, the reaction mixture became homogeneous. After three hours the reaction had gone to completion as evidenced by thin layer chromatographic examination. The solvent was removed under reduced pressure. The resulting solid was slurried in water and filtered to remove any water soluble amine starting material. The collected solid was slurried in diethyl ether and filtered to remove ether soluble impurities. The collected solid was recrytallized from methanol to yield a white solid (11.4 g., 77% of theoretical yield, melting point 134° C.).

reactant | Ethylchloroformate | 0.066 mol, 9.01 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4-amino-1-(2'-formylhydrazino)benzene | 0.066 mol, 10.0 g | NC1=CC=C(C=C1)NNC=O | C7H9N3O
reactant | 2,6-lutidine | 0.066 mol, 7.1 g | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-(4-ethylcarbamoyloxyphenyl)-1-formylhyrazine | C(C)NC(=O)OC1=CC=C(C=C1)NNC=O | C10H13N3O3
